US07030128B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (547 mg, 2.06 mmol) was reacted with 2,4-dibromothiophene over 1 h as described in Example 17. The resulting crude residue was purified by column chromatography on silica, using 40% EtOAc in isohexanes as the eluent, to yield 3-(4-bromothien-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (104 mg, 15%) after recystallisation from dichloromethane/isohexanes: δH (400 MHz, d6-DMSO) 7.57 (1H, d, J 8.3), 7.72 (1H, d, J 1.6), 8.10 (1H, d, J 1.6), 8.34 (1H, s), 9.34 (1H, d, J 7.0); m/z (ES+) 347, 349 (1:1) (M+).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 2.06 mmol, 547 mg | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2,4-dibromothiophene | BrC=1SC=C(C1)Br | C4H2Br2S
product | 3-(4-bromothien-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 104 mg, 15% | BrC=1C=C(SC1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C11H5BrF3N3S
